******************************************************************************
.SUBCKT IR2110 LO HO COM VSS LIN HIN VCC VB VS VDD SD
R_HIN HIN VSS 1E12
C_HIN HIN VSS 1F
R_LIN LIN VSS 1E12
C_LIN LIN VSS 1F
R_HO HO VS 1E12
R_LO LO COM 1E12
R_VB VB VS 1E12
R_VDD VDD VSS 1E12
R_VCC VCC COM 1E12
R_VS VS COM 1E12
R_VSS VSS COM 1E12
R_SD SD VSS 750K
C_SD SD VSS 1F
R_DT DT VSS 1
C_DT DT VSS 1P
X_GD_TEMPLATE LO HO COM VSS LIN HIN VCC VB VS SD DT VDD IR2110_GD_TEMPLATE
.ENDS IR2110
.SUBCKT IR2110_GD_TEMPLATE LO HO COM VSS LIN HIN VCC VB VS SD DT VDD PARAMS: HB_EN=0 SHT_EN=0 P_OFFSET_DT=4E-07 P_SLOPE_DT=
+ 2.496E-11 P_SD_D=2.4285714285714286E-08 P_C_SD_LPF=1.4476482730108394E-09 P_TH_SD_UP=2.1 P_TH_SD_DW=1.1 P_C_TPD=2.4718E-08 P_TH_TPD=
+ 0.5523976432 P_C_PW_MIN=1.4E-09 P_TH_HIN_OFF=0.8 P_TH_LIN_OFF=0.8 P_TH_HIN_ON=2.1 P_TH_LIN_ON=2.1 P_R_HIN_CL=749999.9999999999 
+ P_R_LIN_CL=749999.9999999999 P_C_GATE=2E-09 P_RBOND_NMOS=0.01 P_RBOND_PMOS=0.01 P_LO_VGS_NMOS=3.88 P_LO_VGS_PMOS=9.82 P_LPMOS_LAMDA=
+ 0.86 P_LPMOS_KP=4.3E-06 P_LNMOS_LAMDA=0.88 P_LNMOS_KP=4E-05 P_HO_VGS_NMOS=3.88 P_HO_VGS_PMOS=9.82 P_HPMOS_LAMDA=0.86 P_HPMOS_KP=
+ 4.3E-06 P_HNMOS_LAMDA=0.88 P_HNMOS_KP=4E-05 P_VCC_UVH=8.5 P_VCC_UVL=8.2 P_VB_UVL=8.2 P_VB_UVH=8.6 P_R_UV_D_H=142857.14285714287 
+ P_R_UV_D_L=71428.57142857143 P_VCC_MIN=10 P_IQ_VCC_MIN=0.00009 P_VB_MIN=10 P_IQ_VB_MIN=0.00007 P_V_LEAK=500 P_I_LEAK=1E-06 
+ P_VDD_MIN=3.3 P_IQ_VDD=0.000015 P_VCC_MAX=20 P_IQ_VCC_MAX=0.0003 P_VB_MAX=20 P_IQ_VB_MAX=0.000195 P_R_BSD=28 P_N_BSD=
+ 1.3982651641301325 P_IS_BSD=3.1E-16
R_LIN_CLAMP LIN VSS {P_R_LIN_CL}
R_HIN_CLAMP HIN VSS {P_R_HIN_CL}
X_HIN_VCC_D HIN VCC IR2110_ESD_DIO PARAMS: P_V_BV=0.5 P_I_BV=1M
X_VSS_HIN_D VSS HIN IR2110_ESD_DIO PARAMS: P_V_BV=0.5 P_I_BV=1M
X_LIN_VCC_D LIN VCC IR2110_ESD_DIO PARAMS: P_V_BV=0.5 P_I_BV=1M
X_VSS_LIN_D VSS LIN IR2110_ESD_DIO PARAMS: P_V_BV=0.5 P_I_BV=1M
X_CL_VCM VCC COM IR2110_CL_DIO PARAMS: P_V_BV=25 P_I_BV=1
X_CL_VCS VDD VSS IR2110_CL_DIO PARAMS: P_V_BV=25 P_I_BV=1
X_CL_VB VB VS IR2110_CL_DIO PARAMS: P_V_BV=25 P_I_BV=1
X_INPUT_STAGE LIN_DD HIN_DD SD_DD LIN HIN SD VSS VDD IR2110_INPUT_STAGE PARAMS: P_SD_D={P_SD_D} P_TH_SD_UP={P_TH_SD_UP} P_TH_SD_DW=
+ {P_TH_SD_DW} P_C_SD_LPF={P_C_SD_LPF} P_C_TPD={P_C_TPD} P_TH_TPD={P_TH_TPD} P_C_PW_MIN={P_C_PW_MIN} P_TH_HIN_OFF={P_TH_HIN_OFF} 
+ P_TH_LIN_OFF={P_TH_LIN_OFF} P_TH_HIN_ON={P_TH_HIN_ON} P_TH_LIN_ON={P_TH_LIN_ON}
X_DEADTIME LIN_DT_DIG HIN_DT_DIG LIN_DD HIN_DD DT VDD VSS VCC_UV IR2110_DEADTIME PARAMS: P_SLOPE_DT={P_SLOPE_DT} P_OFFSET_DT=
+ {P_OFFSET_DT} HB_EN={HB_EN} SHT_EN = {SHT_EN}
X_HO_STAGE HO HIN_DT_DIG VCC_UV VB_UV SD_DD VB VS IR2110_HO_STAGE PARAMS: P_RBOND_PMOS={P_RBOND_PMOS} P_RBOND_NMOS={P_RBOND_NMOS} 
+ P_C_GATE={P_C_GATE} P_HO_VGS_PMOS={P_HO_VGS_PMOS} P_HPMOS_LAMDA={P_HPMOS_LAMDA} P_HPMOS_KP={P_HPMOS_KP} P_HO_VGS_NMOS=
+ {P_HO_VGS_NMOS} P_HNMOS_LAMDA={P_HNMOS_LAMDA} P_HNMOS_KP={P_HNMOS_KP}
X_LO_STAGE LO LIN_DT_DIG VCC_UV SD_DD VCC COM IR2110_LO_STAGE PARAMS: P_RBOND_PMOS={P_RBOND_PMOS} P_RBOND_NMOS={P_RBOND_NMOS} 
+ P_C_GATE={P_C_GATE} P_LO_VGS_PMOS={P_LO_VGS_PMOS} P_LPMOS_LAMDA={P_LPMOS_LAMDA} P_LPMOS_KP={P_LPMOS_KP} P_LO_VGS_NMOS=
+ {P_LO_VGS_NMOS} P_LNMOS_LAMDA={P_LNMOS_LAMDA} P_LNMOS_KP={P_LNMOS_KP}
X_UV_DETECT VCC_UV VB_UV VCC VB COM VS IR2110_UV_DETECT PARAMS: P_VB_UVL={P_VB_UVL} P_VB_UVH={P_VB_UVH} P_R_UV_D_H={P_R_UV_D_H} 
+ P_VCC_UVL={P_VCC_UVL} P_VCC_UVH={P_VCC_UVH} P_R_UV_D_L={P_R_UV_D_L}
X_CC_EMULATOR VCC COM VDD VSS VB VS IR2110_CC_EMULATOR PARAMS: P_VB_MIN={P_VB_MIN} P_VCC_MIN={P_VCC_MIN} P_IQ_VB_MIN={P_IQ_VB_MIN} 
+ P_IQ_VCC_MIN={P_IQ_VCC_MIN} P_I_LEAK={P_I_LEAK} P_V_LEAK={P_V_LEAK} P_VDD_MIN={P_VDD_MIN} P_IQ_VDD={P_IQ_VDD} P_VB_MAX={P_VB_MAX} 
+ P_VCC_MAX={P_VCC_MAX} P_IQ_VB_MAX={P_IQ_VB_MAX} P_IQ_VCC_MAX={P_IQ_VCC_MAX}
.ENDS IR2110_GD_TEMPLATE
.SUBCKT IR2110_INPUT_STAGE LIN_DD HIN_DD SD_DD LIN HIN SD COM VDD PARAMS: P_SD_D=5E-08 P_TH_SD_UP=2.1 P_TH_SD_DW=1.1 P_C_TPD=
+ 1.9E-07 P_TH_TPD=10E-9 P_TH_HIN_OFF=0.9 P_TH_LIN_OFF=0.9 P_TH_HIN_ON=2.1 P_TH_LIN_ON=2.1 P_C_PW_MIN=42E-9 P_C_SD_LPF=1E-9
X_SD_TH SD SD_DIG COM IR2110_STP_IDEAL PARAMS: P_TH_UP={P_TH_SD_UP} P_TH_DW={P_TH_SD_DW}
X_SD_LPF SD_DIG SD_LPF_DIG IR2110_ADV_FILTER PARAMS: P_C_DELAY = {P_C_SD_LPF}
X_SD_DD SD_LPF_DIG SD_DD IR2110_RC_DELAY_5 PARAMS: P_C_DELAY = {P_SD_D}
X_HIN_TH HIN HIN_DIG COM VDD IR2110_STP_IDEAL_SUP PARAMS: P_TH_UP={P_TH_HIN_ON} P_TH_DW={P_TH_HIN_OFF}
X_HIN_LPF HIN_DIG HIN_LPF_DIG IR2110_ADV_FILTER PARAMS: P_C_DELAY = {P_C_PW_MIN}
X_HIN_DD HIN_LPF_DIG HIN_DD IR2110_RC_DELAY_5 PARAMS: P_C_DELAY = {P_C_TPD} P_TH_TPD = {P_TH_TPD}
X_LIN_TH LIN LIN_DIG COM VDD IR2110_STP_IDEAL_SUP PARAMS: P_TH_UP={P_TH_LIN_ON} P_TH_DW={P_TH_LIN_OFF}
X_LIN_LPF LIN_DIG LIN_LPF_DIG IR2110_ADV_FILTER PARAMS: P_C_DELAY = {P_C_PW_MIN}
X_LIN_DD LIN_LPF_DIG LIN_DD IR2110_RC_DELAY_5 PARAMS: P_C_DELAY = {P_C_TPD} P_TH_TPD = {P_TH_TPD}
.ENDS IR2110_INPUT_STAGE
.SUBCKT IR2110_DEADTIME LIN_DT_DIG HIN_DT_DIG LIN HIN DT VCC COM VCC_UV PARAMS: HB_EN=1 SHT_EN=0.0 P_SLOPE_DT=2.43236451E-05 
+ P_OFFSET_DT=5.4E-07 P_I_DT=1E-06 P_C_DT=10P P_TH_UP=0.5
X_LIN_DT LIN LIN_DD IR2110_RC_DELAY_10 PARAMS: P_C_DELAY = 0.3N
X_HIN_DT HIN HIN_DD IR2110_RC_DELAY_10 PARAMS: P_C_DELAY = 0.1N
E_VCC_1V VCC_1V 0 VALUE={TABLE( V(VCC,COM) , 0,0 , 3,0 , 6,1 )}
G_DT VCC DT VALUE={TABLE( V(VCC,DT) , 0,0 , 10M,{P_I_DT} )}
E_HDT_PLS HIN_DT_PLS 0 VALUE={IF( ((V(HIN_DD) - V(LIN_DD)) > 0.1) | (V(HIN_DT_DIG) > 0.5) | ({HB_EN} < 0.5), 1.0 , 0.0 )}
E_HIN_DT HIN_DT_DIG 0 VALUE={IF( ( ((V(HIN_DT_PLS) > 0.5) & (V(LOFF) > {P_TH_UP})) | {HB_EN} < 0.5 ) & (V(HIN_DD) > 0.5 ) & V(
+ VCC_UV) > 0.5 , 1.0 , 0.0 )}
E_LDT_PLS LIN_DT_PLS 0 VALUE={IF( ((V(LIN_DD) - V(HIN_DD)) > 0.1) | (V(LIN_DT_DIG) > 0.5) | ({HB_EN} < 0.5) , 1.0 , 0.0 )}
E_LIN_DT LIN_DT_DIG 0 VALUE={IF( ( ((V(LIN_DT_PLS) > 0.5) & (V(HOFF) > {P_TH_UP})) | {HB_EN} < 0.5 ) & (V(LIN_DD) > 0.5 ) , 1.0 , 
+ 0.0 )}
E_SHT_H SHT_H 0 VALUE={IF( {SHT_EN} > 0.5 , V(HIN_DD) , V(HIN_DT_DIG) )}
E_SHT_L SHT_L 0 VALUE={IF( {SHT_EN} > 0.5 , V(LIN_DD) , V(LIN_DT_DIG) )}
G_H_DT VCC_1V HOFF VALUE={TABLE( V(VCC_1V,HOFF) , 0,0 , 10M, I_DT( V(DT,COM) ) )}
C_H_DT HOFF 0 {P_C_DT}
R_H_DT HOFF 0 1E8
S_H_DT HOFF 0 SHT_H 0 IR2110_DT_SW
G_L_DT VCC_1V LOFF VALUE={TABLE( V(VCC_1V,LOFF) , 0,0 , 10M, I_DT( V(DT,COM) ) )}
C_L_DT LOFF 0 {P_C_DT}
R_L_DT LOFF 0 1E8
S_L_DT LOFF 0 SHT_L 0 IR2110_DT_SW
.FUNC I_DT(V_DT) {{P_C_DT} * {P_TH_UP} / ({P_SLOPE_DT}/{P_I_DT}*V_DT + {P_OFFSET_DT})}
.MODEL IR2110_DT_SW VSWITCH RON=1 ROFF=100MEG VON=0.8 VOFF=0.2
.ENDS IR2110_DEADTIME
.SUBCKT IR2110_HO_STAGE HO HIN_DT_DIG VCC_UV VB_UV SD_DD VB VS PARAMS: P_RBOND_NMOS=10M P_RBOND_PMOS=10M P_C_GATE=1E-12 
+ P_HO_VGS_PMOS=6 P_HPMOS_LAMDA=0.06 P_HPMOS_KP=60U P_HO_VGS_NMOS=6 P_HNMOS_LAMDA=0.05 P_HNMOS_KP=100U
R_HIN_DT_DD HIN_DT_DIG HIN_DT_DD 100
C_HIN_DT_DD HIN_DT_DD 0 1N
E_HIN_PLS HIN_PLS 0 VALUE {IF( (V(HIN_DT_DIG) - V(HIN_DT_DD)) > 0.1 | ((V(HGATE_DIG) > 0.5) & V(HIN_DT_DIG)>0.5), 1.0,0.0 )}
E_HGATE_DIG HGATE_DIG 0 VALUE {IF( ( V(VB_UV) > 0.5 & V(HIN_PLS) > 0.5 & V(SD_DD) < 0.5 ) , 1.0,0.0 )}
R_HGATE HGATE_DIG HGATE 1
C_HGATE HGATE 0 {P_C_GATE}
E_HGATE_P VB HGATE_P VALUE {V(HGATE) * {P_HO_VGS_PMOS} * V(HGATE_DIG)}
E_HGATE_N HGATE_N VS VALUE {(1 - V(HGATE)) * {P_HO_VGS_NMOS} * (1 - V(HGATE_DIG))}
M_HO_PMOS HO HGATE_P VB VB IR2110_HO_PMOS
M_HO_NMOS HO HGATE_N VS VS IR2110_HO_NMOS
.MODEL IR2110_HO_PMOS PMOS (LEVEL=1 VTO=-1 CGSO=100P W=1M L=1U RB=1 RG=10 RS=10M RD={P_RBOND_PMOS} LAMBDA={P_HPMOS_LAMDA} KP=
+ {P_HPMOS_KP} )
.MODEL IR2110_HO_NMOS NMOS (LEVEL=1 VTO=1 CGSO=100P W=1M L=1U RB=1 RG=10 RS=10M RD={P_RBOND_NMOS} LAMBDA={P_HNMOS_LAMDA} KP=
+ {P_HNMOS_KP} )
.ENDS IR2110_HO_STAGE
.SUBCKT IR2110_LO_STAGE LO LIN_DT_DIG VCC_UV SD_DD VCC COM PARAMS: P_RBOND_NMOS=10M P_RBOND_PMOS=10M P_C_GATE=1E-12 P_LO_VGS_PMOS=6 
+ P_LPMOS_LAMDA=0.06 P_LPMOS_KP=60U P_LO_VGS_NMOS=6 P_LNMOS_LAMDA=0.05 P_LNMOS_KP=100U
X_SD_LATCH SD_DD LIN_DT_DIG SD_LATCH IR2110_LATCH_SIMPLE
E_LGATE_DIG LGATE_DIG 0 VALUE {IF( (V(VCC_UV) > 0.5 & V(LIN_DT_DIG) > 0.5 & V(SD_LATCH) < 0.5 ), 1.0,0.0 )}
R_LGATE LGATE_DIG LGATE 1
C_LGATE LGATE 0 {P_C_GATE}
E_LGATE_P VCC LGATE_P VALUE {V(LGATE) * {P_LO_VGS_PMOS} * V(LGATE_DIG)}
E_LGATE_N LGATE_N COM VALUE {(1 - V(LGATE)) * {P_LO_VGS_NMOS} * (1 - V(LGATE_DIG))}
M_LO_PMOS LO LGATE_P VCC VCC IR2110_LO_PMOS
M_LO_NMOS LO LGATE_N COM COM IR2110_LO_NMOS
.MODEL IR2110_LO_PMOS PMOS (LEVEL=1 VTO=-1 CGSO=100P W=1M L=1U RB=1 RG=10 RS=10M RD={P_RBOND_PMOS} LAMBDA={P_LPMOS_LAMDA} KP=
+ {P_LPMOS_KP} )
.MODEL IR2110_LO_NMOS NMOS (LEVEL=1 VTO=1 CGSO=100P W=1M L=1U RB=1 RG=10 RS=10M RD={P_RBOND_NMOS} LAMBDA={P_LNMOS_LAMDA} KP=
+ {P_LNMOS_KP} )
.ENDS IR2110_LO_STAGE
.SUBCKT IR2110_UV_DETECT VCC_UV VB_UV VCC VB COM VS PARAMS: P_VB_UVL=7 P_VB_UVH=8 P_R_UV_D_H=142857 P_VCC_UVL=8 P_VCC_UVH=9 
+ P_R_UV_D_L=71428
X_VB_UV VB VB_UV_DIG VS IR2110_STP_IDEAL PARAMS: P_TH_UP={P_VB_UVH} P_TH_DW={P_VB_UVL}
R_VB_UV VB_UV_DIG VB_UV {P_R_UV_D_H}
C_VB_UV VB_UV 0 1P
X_VCC_UV VCC VCC_UV_DIG COM IR2110_STP_IDEAL PARAMS: P_TH_UP={P_VCC_UVH} P_TH_DW={P_VCC_UVL}
R_VCC_UV VCC_UV_DIG VCC_UV {P_R_UV_D_L}
C_VCC_UV VCC_UV 0 1P
.ENDS IR2110_UV_DETECT
.SUBCKT IR2110_CC_EMULATOR VCC COM VDD VSS VB VS PARAMS: P_VB_MIN=10 P_VCC_MIN=10 P_IQ_VB_MIN=100U P_IQ_VCC_MIN=500U P_VDD_MIN=3.3 
+ P_IQ_VDD=100U P_I_LEAK=1.0U P_V_LEAK=650 P_VB_MAX=10 P_VCC_MAX=10 P_IQ_VB_MAX=100U P_IQ_VCC_MAX=500U
G_QB VB VS VALUE {TABLE(V(VB,VS) , 0,0 , 0.1,1U , 1,10U , {P_VB_MIN},{P_IQ_VB_MIN} , {P_VB_MAX},{P_IQ_VB_MAX} )}
R_QB VB VS 1E12
G_QCC VCC COM VALUE {TABLE(V(VCC,COM) , 0,0 , 0.1,1U , 1,10U , {P_VCC_MIN},{P_IQ_VCC_MIN} , {P_VCC_MAX},{P_IQ_VCC_MAX} )}
R_QCC VCC COM 1E12
G_QDD VDD VSS VALUE {TABLE(V(VDD,VSS) , 0,0 , 0.1,1U , 1,1U , 0.8*{P_VDD_MIN},{P_IQ_VDD})}
R_QDD VDD VSS 1E12
G_VB_LEAK VB COM VALUE {TABLE(V(VB,COM) , 0,0 , {P_V_LEAK},{P_I_LEAK})}
R_VB_LEAK VB COM 1E12
.ENDS IR2110_CC_EMULATOR
.SUBCKT IR2110_CL_DIO C A PARAMS: P_V_BV=5 P_I_BV=1
G_CL_DIO C A VALUE {TABLE(V(C,A) , 0,0 , {P_V_BV}*1.01,0 , {P_V_BV}*1.02,{P_I_BV} , 10*{P_V_BV}, 100*{P_I_BV} )}
C_CL_DIO C A 10F
R_CL_DIO C A 1E12
.ENDS IR2110_CL_DIO
.SUBCKT IR2110_ESD_DIO A C PARAMS: P_V_BV=5 P_I_BV=1
G_ESD_DIO A C VALUE {TABLE(V(A,C) , 0,0 , {P_V_BV}*1.01,0 , {P_V_BV}*1.02,{P_I_BV} , 10*{P_V_BV}, 100*{P_I_BV} )}
C_ESD_DIO A C 10F
R_ESD_DIO A C 1E12
.ENDS IR2110_ESD_DIO
.SUBCKT IR2110_RC_DELAY_10 IN OUT PARAMS: P_C_DELAY = 60E-9 P_TH_TPD = 0.5
X_D1 IN D1 IR2110_RC_DELAY_5 PARAMS: P_C_DELAY = {P_C_DELAY} P_TH_TPD = {P_TH_TPD}
X_D2 D1 OUT IR2110_RC_DELAY_5 PARAMS: P_C_DELAY = {P_C_DELAY} P_TH_TPD = {P_TH_TPD}
.ENDS IR2110_RC_DELAY_10
.SUBCKT IR2110_RC_DELAY_5 IN OUT PARAMS: P_C_DELAY = 60E-9 P_TH_TPD = 0.5
X_D1 IN D1 IR2110_RC_DELAY_BASE PARAMS: P_C_DELAY = {P_C_DELAY} P_TH_TPD = {P_TH_TPD}
X_D2 D1 D2 IR2110_RC_DELAY_BASE PARAMS: P_C_DELAY = {P_C_DELAY} P_TH_TPD = {P_TH_TPD}
X_D3 D2 D3 IR2110_RC_DELAY_BASE PARAMS: P_C_DELAY = {P_C_DELAY} P_TH_TPD = {P_TH_TPD}
X_D4 D3 D4 IR2110_RC_DELAY_BASE PARAMS: P_C_DELAY = {P_C_DELAY} P_TH_TPD = {P_TH_TPD}
X_D5 D4 OUT IR2110_RC_DELAY_BASE PARAMS: P_C_DELAY = {P_C_DELAY} P_TH_TPD = {P_TH_TPD}
.ENDS IR2110_RC_DELAY_5
.SUBCKT IR2110_RC_DELAY_BASE IN OUT PARAMS: P_C_DELAY = 60E-9 P_TH_TPD = 0.5
R_DELAY IN IN_DEL 1
C_DELAY IN_DEL 0 {P_C_DELAY}
E_DELAY OUT 0 VALUE={IF( V(IN_DEL) > {P_TH_TPD} , 1.0,0.0 )}
.ENDS IR2110_RC_DELAY_BASE
.SUBCKT IR2110_ADV_FILTER IN OUT PARAMS: P_C_DELAY = 60E-9 P_TH_TPD = 0.5
R_RISE IN IN_DEL 1
C_RISE IN_DEL 0 {P_C_DELAY}
X_CMP IN_DEL OUT 0 IR2110_STP_IDEAL PARAMS: P_TH_UP=0.999 P_TH_DW=0.001
.ENDS IR2110_ADV_FILTER
.SUBCKT IR2110_STP_IDEAL IN OUT GND PARAMS: P_TH_UP=0.9 P_TH_DW=0.1
E_OUTP OUTP 0 VALUE={IF( V(IN,GND)>={P_TH_UP} | V(OUTN)<0.5 , 1,0 )}
E_OUTN OUTN 0 VALUE={IF( V(IN,GND)<={P_TH_DW} | V(OUTP)<0.5 , 1,0 )}
E_OUT OUT 0 VALUE={V(OUTP)}
.ENDS IR2110_STP_IDEAL
.SUBCKT IR2110_STN_IDEAL IN OUT GND PARAMS: P_TH_UP=0.9 P_TH_DW=0.1
E_OUTP OUTP 0 VALUE={IF( V(IN,GND)>={P_TH_UP} | V(OUTN)<0.5 , 1,0 )}
E_OUTN OUTN 0 VALUE={IF( V(IN,GND)<={P_TH_DW} | V(OUTP)<0.5 , 1,0 )}
E_OUT OUT 0 VALUE={V(OUTN)}
.ENDS IR2110_STN_IDEAL
.SUBCKT IR2110_STP_IDEAL_SUP IN OUT GND SUP PARAMS: P_TH_UP=0.9 P_TH_DW=0.1
E_TH_UP TH_UP 0 VALUE={TABLE(V(SUP,GND) , 3,2.1 , 20,11)}
E_TH_DW TH_DW 0 VALUE={TABLE(V(SUP,GND) , 3,1.4 , 20,9)}
E_OUTP OUTP 0 VALUE={IF( V(IN,GND)>=V(TH_UP) | V(OUTN)<0.5 , 1,0 )}
E_OUTN OUTN 0 VALUE={IF( V(IN,GND)<=V(TH_DW) | V(OUTP)<0.5 , 1,0 )}
E_OUT OUT 0 VALUE={V(OUTP)}
.ENDS IR2110_STP_IDEAL_SUP
.SUBCKT IR2110_LATCH_SIMPLE S NR Q
E_PLS SET_PLS 0 VALUE {IF( (V(S) > 0.5 | V(Q) > 0.5), 1.0,0.0 )}
E_Q Q 0 VALUE {IF( (V(SET_PLS) > 0.5 & V(NR) > 0.5 ) , 1.0,0.0 )}
.ENDS IR2110_LATCH_SIMPLE
