* C:\users\omar\My Documents\University\IX_Semester\Disenio\Easyrun\Circuit Design\LTspice Simulations\Rectifier.asc
L1 0 N003 {L_prim} Rser=1
V_red N003 0 SINE(0 155.6 60 0 0 90)
D1 N001 N002 1N5819
C1 Vo_rect 0 {C}
L2 0 N001 {L_sec}
L3 N004 0 {L_sec}
D2 N004 N002 1N5819
R_min_16V Vo_rect 0 {Req}
L4 N002 Vo_rect {L} Rser=0.4
D3 0 N002 1N5819
.model D D
.lib C:\users\omar\My Documents\LTspiceXVII\lib\cmp\standard.dio
K L1 L2 L3 1
.tran 0 400m 200m uic
.param Req = 14.9961460274
.param C = {1/(4*pi*fc*Req)}
.param L = {4*Req*Req*C}
.param fc = 20
.param L_sec = 1
.param L_prim = {L_sec*(120/15)*(120/15)}
.backanno
.end
